US06630004B1
Synthesis of Nα,Nε-di(4-Nitrophenyl)-L-lysine
5 g (34.2 mmol) of L-lysine are dissolved in 100 ml of water in the presence of 1.4 g (1 eq) of sodium hydroxide and 8.6 g (3 eq) of sodium bicarbonate in a 250 ml three-necked flask equipped with a reflux condenser and a thermometer. A solution of 10.8 ml (3 eq) of 4-fluoronitrobenzene in 60 ml of ethanol is run into the mixture, which is brought to reflux (85°-90° C.) for 5 days. The cooled mixture is extracted with ethyl ether. The aqueous phase is acidified to pH˜3 with 5N hydrochloric acid. A gummy precipitate is formed, which precipitate is extracted with dichloromethane in the presence of a small amount of methanol. The organic phase is washed with water to neutrality, dried over sodium sulphate and then evaporated to give an orange-colored oil which crystallizes in the presence of ethyl ether. 11.7 g of a yellow crystalline product are obtained, i.e. a yield of 88%.

reactant | L-lysine | 34.2 mmol, 5 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | sodium hydroxide | 1.4 g, 1 eq | [OH-].[Na+]
reactant | sodium bicarbonate | 8.6 g, 3 eq | C([O-])(O)=O.[Na+]
reactant | 4-fluoronitrobenzene | 10.8 ml, 3 eq | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | water | 100 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | Nα,Nε-di(4-Nitrophenyl)-L-lysine | 11.7 g, yield of 88% | [N+](=O)([O-])C1=CC=C(C=C1)N[C@@H](CCCCNC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C18H20N4O6
